US07094801B2
4-{3E-[2-(Benzotriazol-1-ylmethoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 2-(benzotriazol-1-ylmethoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde (Ex-115A) and 4-acetyl-benzenesulfonamide (Ex-26A) in a similar manner as described in Ex-22. Light yellow solid, 56% yield, mp 255° C. (dec). 1H-NMR (300 MHz, DMSO-d6) δ 8.21 (s, 1H), 8.09 (d, 3H, J=9.4 Hz), 8.01 (d, 1H, J=7.8 Hz), 7.93 (d, 2H, J=7.8 Hz), 7.75 (d, 2H, J=9.4 Hz), 7.56–7.69 (m, 4H), 7.42–7.47 (m, 1H), 7.38 (s, 1H), 7.13 (dd, 1H, J=5.4, 3.6 Hz), 7.05 (s, 2H), 4.05 (s, 3H). MS (ESI) m/z=547 ([M+H]+, 100%). Anal. Calcd. C27H22N4O5S2: C, 59.33; H, 4.06; N, 10.25; S, 11.73. Found: C, 59.45; H, 4.27; N, 9.92; S, 11.27.

reactant | 2-(benzotriazol-1-ylmethoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde | N1(N=NC2=C1C=CC=C2)COC2=C(C=O)C=C(C(=C2)OC)C=2SC=CC2 | C19H15N3O3S
reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
product | 4-{3E-[2-(Benzotriazol-1-ylmethoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 56% yield | N1(N=NC2=C1C=CC=C2)COC2=C(C=C(C(=C2)OC)C=2SC=CC2)/C=C/C(=O)C2=CC=C(C=C2)S(=O)(=O)N | C27H22N4O5S2
